US08357703B2
6-[((3-Butyl-5-methyl-isoxazol-4-yl)methyl)-amino]-N-(2-hydroxy-1-methyl-ethyl)-nicotinamide
A mixture of 6-[(3-butyl-5-methyl-isoxazol-4-ylmethyl)-amino]-nicotinic acid methyl ester (90 mg, 0.3 mmol), rac-2-amino-1-propanol (27 mg, 0.36 mmol) and TBD (12 mg, 0.09 mmol) was heated at 50° C. for 4 h under argon. The reaction mixture was concentrated onto silica then purified by chromatography (silica, 0 to 7% methanol in ethyl acetate) to give the title compound (55 mg, 54%) as a colourless oil. MS: m/e=347.3 [M+H]+.

reactant | 6-[(3-butyl-5-methyl-isoxazol-4-ylmethyl)-amino]-nicotinic acid methyl ester | 0.3 mmol, 90 mg | COC(C1=CN=C(C=C1)NCC=1C(=NOC1C)CCCC)=O | C16H21N3O3
reactant | rac-2-amino-1-propanol | 0.36 mmol, 27 mg | NC(CO)C | C3H9NO
product | 6-[((3-Butyl-5-methyl-isoxazol-4-yl)methyl)-amino]-N-(2-hydroxy-1-methyl-ethyl)-nicotinamide | 55 mg, 54% | C(CCC)C1=NOC(=C1CNC1=NC=C(C(=O)NC(CO)C)C=C1)C | C18H26N4O3
